US07825128B2
b) (RS)—N(ethoxycarbonyl)-(4-{[4-{methylsulfanyl}-5-bromo-pyrimidin-2-yl]amino}phenyl)-S-methylsulfoximide
(RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide (10 g, 42 mmol), 5-Bromo-2-chloro-4-methylsulfanyl-pyrimidine (10 g, 42 mmol) and 5M HCl (8 mL) in dioxane is stirred at 60° C. in 90% acetonitrile-water (250 mL) for 36 h. TLC indicates almost complete consumption of starting sulfoximine. The reaction mixture is poured into 800 mL of aq. NaHCO3, the pasty precipitate filtered, washed with 70 mL of EtOAc, then crude material (7.5 g) is recrystallized from boiling EtOH (200 mL) to yield 6 g (35%).

reactant | (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | 42 mmol, 10 g | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C10H14N2O3S
reactant | 5-Bromo-2-chloro-4-methylsulfanyl-pyrimidine | 42 mmol, 10 g | BrC=1C(=NC(=NC1)Cl)SC | C5H4BrClN2S
reactant | HCl | 5M, 8 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | acetonitrile water | 250 mL | C(C)#N.O
product | (RS)—N(ethoxycarbonyl)-(4-{[4-{methylsulfanyl}-5-bromo-pyrimidin-2-yl]amino}phenyl)-S-methylsulfoximide | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)SC)Br | C15H17BrN4O3S2
